US06562844B2
BAL Resin Immobilized 5-(S)-Aminomethyl-3-[4′-tert-butoxycarbonyl-3′-fluorophenyl]-oxazolidine-2-one
Triphenylphosphine (7.61 g, 29.0 mmol) was added to a mixture of BAL aldehyde resin (33.3 g, 9.67 mmol) and 5-(S)-azidomethyl-3-[4′-tert-butoxycarbonyl-3′-fluorophenyl]-oxazolidine-2-one (9.76 g, 29.0 mmol) in tetrahydrofuran (170 ml) under nitrogen at room temperature. The mixture was agitated at room temperature for 2 h and then at 75° C. for 16 h. The mixture was cooled to room temperature, and 1 M sodium cyanoborohydride in THF (58.0 ml, 58.0 mmol) was added in one portion. The reaction mixture was agitated for 8 h. The resulting amine resin was filtered, washed liberally with methanol and dichloromethane, and dried under vacuum.

reactant | Triphenylphosphine | 29.0 mmol, 7.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | aldehyde resin | 9.67 mmol, 33.3 g | C1=CC=C(C=C1)CNC(=O)CN2C=C(C3=CC=CC=C32)C=O | C18H16N2O2
reactant | 5-(S)-azidomethyl-3-[4′-tert-butoxycarbonyl-3′-fluorophenyl]-oxazolidine-2-one | 29.0 mmol, 9.76 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)OC(C)(C)C)F | C15H17FN4O4
reactant | sodium cyanoborohydride | 1 M | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
solvent | THF | 58.0 mmol, 58.0 ml | C1CCOC1 | C4H8O
product | 5-(S)-Aminomethyl-3-[4′-tert-butoxycarbonyl-3′-fluorophenyl]-oxazolidine-2-one | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)OC(C)(C)C)F | C15H19FN2O4
